US06495695B2
When the process of the present invention is performed in the form of a fixed bed, the catalyst of the present invention is packed in a reactor and heated to a reaction temperature. Then, the mixture of methyl ethyl ketone, formaldehyde and ammonia was allowed to proceed through the gas phase catalytic reaction while maintaining the suitable reaction temperature. Thus, a reaction product containing 2,3,5-collidine, 2,3,6-collidine and 2,3,5,6-tetramethylpyridine is obtained.

reactant | formaldehyde | C=O | CH2O
reactant | ammonia | N | H3N
reactant | 2,3,5-collidine | N1=C(C(=CC(=C1)C)C)C | C8H11N
reactant | 2,3,6-collidine | N1=C(C(=CC=C1C)C)C | C8H11N
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 2,3,5,6-tetramethylpyridine | CC1=NC(=C(C=C1C)C)C | C9H13N
